US08563577B2
Benzo[b]thiophen-3-ylboronic acid (387 mg, 2.17 mmol), aniline (202 mg, 2.17 mmol), and 2-oxoacetic acid hydrate (200 mg, 2.17 mmol) were dissolved in CH3CN (12 ml) and stirred in a microwave reactor at 100° C. for 1 hour. The solvent was evaporated, and the residue was dissolved in EtOAc and washed with sat. NaHCO3. The pH of aqueous phase was adjusted with 2N HCl to about 7, and the product was extracted with EtOAc. The organic phase was dried with Na2SO4, filtered and evaporated to obtain 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetic acid (295 mg, 47.9% yield), which was used in the next step without any further purification.

reactant | Benzo[b]thiophen-3-ylboronic acid | 2.17 mmol, 387 mg | S1C2=C(C(=C1)B(O)O)C=CC=C2 | C8H7BO2S
reactant | aniline | 2.17 mmol, 202 mg | NC1=CC=CC=C1 | C6H7N
reactant | 2-oxoacetic acid hydrate | 2.17 mmol, 200 mg | O.O=CC(=O)O
solvent | CH3CN | 12 ml | CC#N | C2H3N
product | 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetic acid | 295 mg, 47.9% yield | S1C2=C(C(=C1)C(C(=O)O)NC1=CC=CC=C1)C=CC=C2 | C16H13NO2S
